Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Hemoptysis
 
Major Surgical or Invasive Procedure:
Endobronchial ultrasound and biopsy

 
History of Present Illness:
Mr ___ is a ___ year old man with a history of DVT on 
warfarin, who presents for hemoptysis. Patient reports cough 
started on ___ (~4 days ago). Last night had an episode of 
small volume hemoptysis. Altogether endorses about 6 episodes of 
hemoptysis, ___ total ~200cc of blood. Mostly liquid blood, one 
episode of coughing up clot upon arrival to ___ (photo of 
bronchial cast uploaded ___ ___). Endorses associated dyspnea. 
Denies chest pain, fever, night sweats, weight change, nausea, 
abdominal pain, emesis, diarrhea, constipation, lightheadedness, 
dizziness. Patient presented to ___ overnight. Labs at 
___ notable for supratherapeutic INR of 8.41 and Hgb 12.9. 
CXR revealing a hazy opacity of the right upper lobe. CT chest 
revealed a cavitary lesion suspicious for malignancy vs 
infection. Patient was given ceftriaxone and clindamycin. 
Decision was made to transfer patient to tertiary ___. 
Attempted transfer to ___ given that patient gets most of his 
care there, but they were closed to transfer, so patient was 
transferred to ___. Of note, the patient has never been 
incarcerated, homeless, a health care worker, or traveled 
outside of the ___ he has had no weight loss, night 
sweats, or previous episodes of hemoptysis.
 
Past Medical History:
Recurrent provoked left lower extremity DVT
Left lower extremity wound with multiple debridements (___)
Appendectomy
Ventral hernia repair
Left knee laparoscopic debridement (patient not certain for 
what)

 
Social History:
___
Family History:
Father passed away ___ his sleep, may have had cardiac issues.
Mother is alive without any significant medical problems. 
Brother
died suddenly at age ___ of unclear cause. Sister alive and
healthy. No known family history of blood clots or cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================= 
GENERAL: Sitting comfortably ___ no acute distress.
HEENT: Sclera anicteric and without injection. MMM.
CARDIAC: Distant heart sounds. Normal rate and rhythm. No
murmurs, rubs, or gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Obese. Well healed midline scar. Soft, nontender.
EXTREMITIES: Warm. Chronic skin changes ___ bilateral distal 
lower
extremities. 1+ pitting pedal edema, L>R.
NEUROLOGIC: AAOx3. CN2-12 intact. Motor and sensory function
grossly intact and symmetric throughout.

DISCHARGE PHYSICAL EXAM
=======================
GENERAL: Sitting ___ chair
HEENT: Sclera anicteric and without injection.
CARDIAC: Heart sounds distant. Normal rate and rhythm. No 
murmurs
auscultated. 
LUNGS: Distant lung sounds, clear to auscultation bilaterally. 
No wheezes, rhonchi or rales. No increased work of breathing.
ABDOMEN: Obese. Well healed midline scar. Soft, nontender.
EXTREMITIES: Warm. 2+ pitting edema of bilateral ___, L>R. Skin 
changes reflective of chronic venous stasis, well-healed scar 
overlying left lateral malleolus. No open sores. 
NEUROLOGIC: Alert and appropriately oriented, moving all 
extremities purposefully. 
 
Pertinent Results:
ADMISSION LABS: 
=============
___ 08:35AM BLOOD WBC-13.8* RBC-5.21 Hgb-12.6* Hct-40.1 
MCV-77* MCH-24.2* MCHC-31.4* RDW-16.8* RDWSD-46.3 Plt ___
___ 08:35AM BLOOD Neuts-84.6* Lymphs-5.3* Monos-9.2 
Eos-0.1* Baso-0.4 Im ___ AbsNeut-11.62* AbsLymp-0.73* 
AbsMono-1.27* AbsEos-0.02* AbsBaso-0.05
___ 08:35AM BLOOD ___ PTT-59.8* ___
___ 08:35AM BLOOD Glucose-139* UreaN-28* Creat-1.0 Na-144 
K-4.4 Cl-109* HCO3-17* AnGap-18
___ 08:35AM BLOOD ALT-21 AST-18 AlkPhos-77 TotBili-0.2
___ 08:35AM BLOOD cTropnT-<0.01
___ 08:35AM BLOOD Albumin-3.8 Calcium-8.9 Phos-2.7 Mg-1.9
___ 08:06PM BLOOD ___ pO2-52* pCO2-44 pH-7.37 
calTCO2-26 Base XS-0 Comment-GREEN TOP
___ 08:30AM BLOOD Lactate-4.6*

___ 8:30 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 8:30 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 9:03 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 10:20 am SPUTUM      Source: Expectorated. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      <10 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 

DISCHARGE LABS:
==============
___ 08:12AM BLOOD WBC-6.8 RBC-4.61 Hgb-11.2* Hct-35.7* 
MCV-77* MCH-24.3* MCHC-31.4* RDW-16.5* RDWSD-46.0 Plt ___
___ 08:12AM BLOOD Plt ___
___ 01:23PM BLOOD Heparin-0.89*
___ 08:12AM BLOOD Glucose-102* UreaN-15 Creat-1.0 Na-143 
K-4.7 Cl-107 HCO3-24 AnGap-12
___ 08:12AM BLOOD Calcium-9.1 Phos-3.0 Mg-1.9
___ 08:12AM BLOOD WBC-6.8 RBC-4.61 Hgb-11.2* Hct-35.7* 
MCV-77* MCH-24.3* MCHC-31.4* RDW-16.5* RDWSD-46.0 Plt ___
___ 08:10AM BLOOD Neuts-70.5 Lymphs-10.9* Monos-12.1 
Eos-5.6 Baso-0.4 Im ___ AbsNeut-5.79 AbsLymp-0.89* 
AbsMono-0.99* AbsEos-0.46 AbsBaso-0.03
___ 08:12AM BLOOD Plt ___
___ 08:12AM BLOOD ___ PTT-29.3 ___
___ 01:23PM BLOOD Heparin-0.89*
___ 08:12AM BLOOD Glucose-102* UreaN-15 Creat-1.0 Na-143 
K-4.7 Cl-107 HCO3-24 AnGap-12
___ 08:12AM BLOOD Calcium-9.1 Phos-3.0 Mg-1.9

___ 8:00 am SPUTUM      Source: Induced. 
ACID FAST SMEAR (Final ___: 
NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 
ACID FAST CULTURE (Pending): 
MTB Direct Amplification (Final ___:  M. TUBERCULOSIS DNA 
NOT DETECTED BY NAAT

___ 11:19 am SPUTUM      Source: Induced. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Pending): 

___ 7:44 pm SPUTUM      Source: Induced. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Pending): 

___ 1:04 pm BRONCHIAL WASHINGS      TRACHEOBRONCHIAL WASH. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___: 
      10,000-100,000 CFU/mL Commensal Respiratory Flora. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

___ 1:59 pm
      BRONCHOALVEOLAR LAVAGE      RUL BAL. 

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   RESPIRATORY CULTURE (Final ___: 
      10,000-100,000 CFU/mL Commensal Respiratory Flora. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

___ 1:21 pm TISSUE      EBUS TBNA LEVEL 4R. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary): 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

___ FNA - Cytology - Lymph node, level 4R, EBUS-TBNA:
NEGATIVE FOR MALIGNANT CELLS.
- Numerous lymphocytes, consistent with lymph node sampling.
- Bronchial epithelial cells with reactive changes.

IMAGING:
========
___ CXR IMPRESSION: 
Right upper lobe opacity, better evaluated on chest CT from ___. No
pneumothorax.

___ LEFT LOWER EXTREMITY ULTRASOUND IMPRESSION: 
No evidence of deep venous thrombosis ___ the left lower 
extremity veins.

___ BRONCHOSCOPY:
Old blood mostly coming from the RUL apical segment, some lymph 
nodes larger than 5cm.

___ CT CHEST IMPRESSION:
Not available, from outside hospital, but with RUL cavitary 
lesion, left sided simple renal cyst, and hemangioma of the 
spine.
 
Brief Hospital Course:
==============PATIENT SUMMARY===============
Mr. ___ is a ___ non-smoker without tuberculosis risk 
factors, on warfarin for a chronic left leg DVT, found to be 
supra-therapeutic with INR 10.0, who presented after large 
volume hemoptysis x1, small volume 4x (coughed up bronchial tree 
cast), s/p warfarin reversal, also found to have right upper 
lobe cavitary lesion concerning for malignancy vs. infection, 
AFB smear negative x3, uncomplicated endobronchial ultrasound on 
___. Transitioned to therapeutic enoxaparin for anticoagulation 
prior to discharge. 

===================== ACTIVE ISSUES 
ADDRESSED=====================
#Hemoptysis
#RUL cavitary lesion
DDx includes malignancy vs. infection. No smoking history. No 
obvious TB risk factors. Possibly represents cavitary PNA that 
was complicated by supratherapeutic INR on warfarin. ___ the 
hospital, the patient was covered for presumed CAP with 
Ceftriaxone x 7days (___) and Azithromycin x 5 days 
(___). During stay, patient remained afebrile and 
normotensive, without sign of worsening possible infection. He 
was ruled out for TB with induced sputum AFB smears negative x 
3, MTB probe negative. Underwent endobronchial ultrasound with 
IP on ___ with bronchial washing and FNA of lymph nodes- 
cytology with no malignant cells. Bronchial alveolar lavage with 
commensal respiratory flora. Can discuss with pulmonology and 
hematologist if additional tissue samples are required to rule 
out malignancy. 

#DVT
History of recurrent provoked DVTs. Recently with increase ___ 
warfarin dose 3 weeks ago with Dr. ___ at ___. 
Warfarin reversed upon admission with vitamin K and FFP, and INR 
went from 10 to 1.4. Lower extremity ultrasound on ___ without 
any sign of DVT. After discussion with patient's outpatient 
hematologist Dr. ___ was discharged on enoxaparin 
150mg BID for anticoagulation. Given BMI of 54, concern for 
therapeutic efficacy of enoxaparin. Monitored Factor anti-Xa 
level four hours after his fourth dose of enoxaparin with a 
level of 0.89 (per guidelines from ___ for dosing Enoxaparin 
___ obese patients, target peak anti-Xa level 0.6-1.0). He 
tolerated therapeutic anticoagulation x 2 days with stable H/H 
and no further episodes of hemoptysis. Plan to follow with 
hematology as an outpatient for further discussion of long term 
anticoagulation plan. 

#Leukocytosis
Possibly secondary to pneumonia vs stress response which 
resolved prior to discharge.

========CHRONIC ISSUES ADDRESSED=============
#Hyperlipidemia 
Home atorvastatin continued throughout admission

#Primary Prevention
Aspirin initially held, resumed 2 days prior to discharge. 

===========TRANSITIONAL ISSUES=============
- Cytology from bronchial lavage and FNA from lymph nodes 
demonstrated no malignant cells. Can discuss with pulmonology 
and hematologist if additional tissue samples are required to 
rule out malignancy. 
- Patient discharged on enoxaparin 150mg BID for 
anticoagulation. Please ensure patient follows up with 
hematology. 
- Follow-up incidental CT findings: 5.2 cm superior left renal 
simple cyst, and T11 hemangioma
- Repeat CBC at follow up appointment. Patient with microcytic 
anemia (discharge Hb 11.2) ___ setting of hemoptysis prior to 
admission.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QPM 
2. Aspirin 81 mg PO DAILY 
3. Warfarin ___ mg PO DAILY16 

 
Discharge Medications:
1.  Enoxaparin Sodium 150 mg SC BID  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
================
PRIMARY DIAGNOSIS
================
- Hemoptysis
- Right upper lobe cavitary mass (biopsy results pending) 

==================
SECONDARY DIAGNOSIS
==================
- Hemangioma (incidental)
- Left Simple renal cyst (incidental)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  

Dear Mr. ___,  

It was a pleasure caring for you at ___ 
___.

=======================
WHY WAS I ___ THE HOSPITAL?  
======================= 
- You were transferred to ___ because you were coughing up 
blood 

=================================
WHAT HAPPENED TO ME ___ THE HOSPITAL?  
=================================
- Your Coumadin (blood thinner) was reversed 
- You had a CT scan of your chest which showed a mass ___ your 
right upper lung lobe
- You had an endobronchial ___ the lung) ultrasound and biopsy 
of the lung mass
- You were treated with antibiotics
- Your sputum was collected to determine your tuberculosis 
status, which negative 

======================================
WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
======================================
- We recommend you continue to take your blood thinner 
- Attend your follow-up with the interventional pulmonology team
- Attend your follow-up with your hematologist to discuss long 
term blood thinners.

We wish you the best!

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___